US04518597
6-(4-Phenylmercapto-butoxy)-4H-3,1-benzoxazin-2-one
An amount of 4.95 gm (0.03 mol) of 6-hydroxy-4H-3,1-benzoxazin-2-one is added to an ethanolic sodium ethoxide solution prepared from 150 ml of ethanol and 0.92 gm (9.04 mol) of sodium, and the mixture is refluxed. Ten grams (0.04 mol) of 4-phenylmercapto-butylbromide (prepared from thiophenol and excess 1,4-di-bromo-butane, Bp 0.03 mb :=95°-104° C.) are added to the hot solution, and the mixture is refluxed for a further two hours. After cooling, the reaction solution is poured onto ice water and extracted with ethyl acetate. The extract is washed with water and dried with sodium sulfate, and the ethyl acetate is distilled off in vacuo. The residue is recrystallized from cyclohexane/ethyl acetate.

reactant | 6-hydroxy-4H-3,1-benzoxazin-2-one | 0.03 mol, 4.95 gm | OC=1C=CC2=C(COC(N2)=O)C1 | C8H7NO3
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 9.04 mol, 0.92 gm | [Na] | Na
reactant | 4-phenylmercapto-butylbromide | 0.04 mol, Ten grams | C1(=CC=CC=C1)SCCCCBr | C10H13BrS
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 6-(4-Phenylmercapto-butoxy)-4H-3,1-benzoxazin-2-one | C1(=CC=CC=C1)SCCCCOC=1C=CC2=C(COC(N2)=O)C1 | C18H19NO3S
